Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Initiation of venetoclax for CLL
 
Major Surgical or Invasive Procedure:
Ultrasound guided biopsy of left axillary lymph node

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ ankylosing spondylitis, SAPHO
syndrome, HTN and CLL w/ 11q on ibrutinib who presents w/ 
concern
for disease progression. He was recently admitted at ___ in ___ on ___ where he presented for
Dyspnea. He was found to have a large L-sided pleural effusion
and after having 1200 cc of red fluid drained per his report, he
felt improved, but not back to baseline. He was started on
Ceftriaxone and discharged home ___ w/ PO abx. 

Today he f/u with his oncologist, Dr. ___ was updated
that his thoracentesis was c/w involvement of CLL. He had a CT
scan which revealed extensive disease progression and now being
admitted for urgent initiation of venetoclax. 
 
Past Medical History:
SAPHO syndrome
Significant ankylosing spondylitis since ___
Gastric ulcer 
Kidney stones about ___ years ago
CLL since ___
His treatment history is as follows:
___: 6 cycles R-CVP
___: 6 cycles FCR
___: 3 cycles Bendamustine/Rituximab
___: 4 cycles Bendamustine/Rituximab
 
Social History:
___
Family History:
Mother deceased from lung cancer ___. 
Father deceased from a brain aneurysm.  He had a sister who is
deceased from ovarian cancer.  Six other siblings. He has a
maternal uncle with leukemia and maternal aunt with lung cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
VITAL SIGNS: 98.6 PO 125 / 80 114 18 95 RA
General:  NAD, Resting in bed comfortably watching football 
HEENT:  MM dry, macroglossia, significant submandibular fullness
b/l, no supra/infraclavicular adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB on R, decreased aeration on entire L side, No C/W/R,
No respiratory distress on rest or w/ speaking
ABD:  BS+, soft, ? splenomegaly difficult to assess as abd
distended
LIMBS: WWP, b/l pitting edema which he states is "much 
improved,"
from baseline, no tremors
NEURO:  Grossly normal
SKIN: Chronic venous changes b/l lower ext

DISCHARGE PHYSICAL EXAM
=================
VITAL SIGNS: 98.1 113 / 73 110 18 96 Ra 
General:  NAD, laying in bed
HEENT:  MM dry, macroglossia, PERRLA, some white thrush? on
tongue, Left axilla with healed biopsy site, ecchymosis.
Continues to have bilateral axillary lymphadenopathy.
LYMPH: improving bilateral submandibular fullness
CV:  Regular rhythm but seems to drop beats consistently, 
slightly tachycardic, normal S1/S2, no m/r/g
PULM: Very difficult to assess
ABD:  BS+, soft, non-tender, mildly distended
LIMBS: WWP, no tremors
NEURO:  Grossly normal
SKIN: Chronic venous changes b/l lower ext. Edema 1+; Dressing
over RLE. Erythema and venous stasis changes over ___ without 
pain
or warmth.

 
Pertinent Results:
ADMISSION LABS
==========
___ 12:25PM BLOOD WBC-24.7*# RBC-4.64 Hgb-12.9* Hct-42.1 
MCV-91 MCH-27.8 MCHC-30.6* RDW-15.6* RDWSD-51.1* Plt ___
___ 12:25PM BLOOD Neuts-21* Bands-1 Lymphs-78* Monos-0 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-5.43 
AbsLymp-19.27* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 12:25PM BLOOD ___ PTT-28.5 ___
___ 12:00AM BLOOD ___
___ 06:12AM BLOOD Glucose-124* UreaN-6 Creat-0.5 Na-142 
K-4.5 Cl-97 HCO3-32 AnGap-13
___ 12:25PM BLOOD ALT-29 AST-52* LD(LDH)-478* AlkPhos-158* 
TotBili-1.3
___ 12:25PM BLOOD TotProt-5.5* Albumin-4.1 Globuln-1.4* 
Phos-2.2* Mg-2.0 UricAcd-7.2*

IMAGING & STUDIES
============

___ Axillary Lymph Node Biopsy
SPECIMEN: LYMPH NODE
CLINICAL HISTORY: Chronic lymphocytic leukemia
CYTOGENETIC DIAGNOSIS: 45,XY,-9,add(17)(p11.2)[6]/ 
___
INTERPRETATION/COMMENT: Six of the metaphase left axillary lymph 
node cells examined had an abnormal karyotype with a missing 
chromosome 9 and a rearrangement of chromosome 17 that ___ has 
confirmed has resulted in deletion of the TP53 gene (see below). 
___ also demonstrated that the large majority of cells in this 
lymph node have the previously observed (___) deletion 
13q14. These findings are consistent with progression of the 
patient's known chronic lymphocytic leukemia to higher grade 
disease.

___ Pleural fluid cytology
PLEURAL FLUID, LEFT:
ATYPICAL.
Numerous lymphocytes and blood (see note).

___ Bilateral Lower Extremity Veins Ultrasound
IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.  The peroneal veins were not well visualized bilaterally 
due to
subcutaneous edema.

___ Echocardiogram

Very suboptimal image quality. The left atrial volume index is 
normal. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity size is normal. Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
normal (LVEF = 70%). There is considerable beat-to-beat 
variability of the left ventricular ejection fraction due to an 
irregular rhythm/premature beats. Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
cardiac rhythm is now atrial fibrillation; no obvious change in 
function but the technically suboptimal nature of both studies 
precludes definitive comparison. 

___ CTA Chest

IMPRESSION: 
1.  Suboptimal contrast timing decreases sensitivity to 
detection of filling
defects within the subsegmental pulmonary arterial branches.  No 
central
pulmonary embolus or right heart strain pattern.
2.  Moderate left and small right pleural effusions with 
associated
compressive atelectasis.
3.  Extensive lymphadenopathy, similar to most recent comparison 
examination,
compatible with patient's history of CLL.

___ Lower Extremity Duplex Ultrasound
IMPRESSION:  
Acute nonocclusive thrombus demonstrated throughout the right 
axillary vein, subclavian vein, and basilic vein with 
visualization of an intraluminal PICC line. 

 
OTHER PERTINENT LABS
====================
___ 06:38AM BLOOD G6PD-NORMAL
___ 12:00AM BLOOD Ret Aut-2.3* Abs Ret-0.08
___ 03:00PM BLOOD proBNP-2956*
___ 01:55PM BLOOD Lipase-22
___ 01:20PM BLOOD PEP-HYPOGAMMAG IgG-318* IgA-60* IgM-36*
___ 12:25PM BLOOD VitB12-544 Folate-11
___ 12:25PM BLOOD TSH-2.2
___ 01:27PM BLOOD ___ Temp-37.0 pO2-35* pCO2-58* 
pH-7.42 calTCO2-39* Base XS-10 Intubat-NOT INTUBA

DISCHARGE LABS
==============
Notable for ANC: ___
WBC 2.8
Hb 9.7
Plts ___
Fibrinogen 336
BMP: K 5.2 (repeat 4.5), HCO3 33 (36)
TLS labs wnl: Uric acid 2.4, Phosph 3.5, Calcium 8.___ w/ ankylosing spondylitis, SAPHO syndrome, HTN and CLL w/ 
11q on ibrutinib who presented with rapid disease progression.

#CLL
#Pancytopenia
Rapidly progressive disease on ibrutinib with LN biopsy negative 
for Richter transformation to large cell lymphoma. He was 
initiated on venetoclax, day 1 = ___. This treatment was 
dose reduced initially by 50% for its interactions with 
diltiazem. He was started on 10 mg x 7 days, 20 mg x 3 days and 
then increased to 50 mg on ___. His course was complicated 
by pancytopenia, a known complication of venetoclax. Since he 
did not have the 50mg pills, he was treated with 100mg every 
other day. He was given filgrastim on ___ and ___ to support 
his ANC while on venetoclax. While on Venetoclax, he was 
monitored with frequent TLS/renal function labs, without 
evidence of lysis or kidney injury. He was given sevelamer 800 
mg TID to be taken with meals as well as allopurinol ___ mg 
daily, which were both continued on discharge. He was initially 
started on 100 mg prednisone daily (received x 5 days), which 
was tapered over the course of a week (last dose ___. In 
the setting of high dose prednisone and IVF for initiation of 
venetoclax, he developed marked peripheral volume overload and 
was started on 40 mg PO Lasix BID. Due to soft BPs, this Lasix 
was discontinued. If he continues to have peripheral edema as an 
outpatient, can consider restarting Lasix.

# Malignant Pleural Effusion
Prior to presentation, he was admitted to ___ 
___ for large left sided pleural effusion. He underwent 
removal of 1200 cc via thoracentesis, with cytology consistent 
with CLL. Upon discharge, he had a CT chest which remonstrated a 
moderate pleural effusion. During this admission, he had a 
repeat thoracentesis on ___, with removal of 1 L of sanguinous 
fluid. Pleural fluid studies exudative and consistent with CLL. 
He was initially continued on IV ceftriaxone, which was later 
discontinued as pleural studies from both OSH and ___ were 
without evidence of infection. His pleural effusion was 
monitored by symptom, O2 requirement and progression on CXR 
throughout the admission. He was evaluated on multiple 
subsequent occasions by interventional pulmonology, but did not 
require additional thoracentesis. He will follow up with IP at 
___ as an outpatient for further management on ___.

#New onset atrial fibrillation
#Sinus tachycardia
New onset atrial fibrillation with RVR into 170-180s during this 
admission. He was stabilized with a regimen of PO diltiazem and 
metoprolol, with IV diltiazem as needed during episodes of RVR. 
Given his a-fib was refractory to initial medication management, 
cardiology was consulted. He had an ECHO performed on ___ 
without evidence of thrombus, CHF or valvular abnormalities. 
A-fib felt to most likely be multifactorial in the setting of 
pleural effusion, malignancy, ibrutinib therapy. Given his 
relatively low risk of both stroke and bleeding, we did not 
initiate systemic anticoagulation in setting of ongoing marrow 
suppressive therapy and worsening thrombocytopenia. He was 
monitored on telemetry throughout the admission. He required 
careful titration of medications in setting of peripheral volume 
overload, IVF with venetoclax chemotherapy, hypoxia and soft 
BPs. After approximately 2 weeks in atrial fibrillation, he 
spontaneously converted into sinus rhythm, however continued to 
experience sinus tachycardia. CTA was obtained, which was 
without evidence of PE. Due to the interaction of diltiazem and 
venetoclax, as well as hypotension with high doses of diltiazem, 
we favored uptitration of metoprolol. He was ultimately well 
controlled on Metoprolol succinate 100mg. He will follow up with 
Dr. ___ at ___ Card___.

#Peripheral edema
#Marked lymphedema to BLE
#RLE skin tear
Peripheral edema present on admission, which worsened in the 
setting of high dose steroids and IVF during chemotherapy. 
Additionally, presence of a small skin tear on RLE, which 
appeared to be an erosion, which led to weeping fluid in the 
setting of his marked edema. He was evaluated by wound nurse who 
recommended daily dressing changes and use of ace bandages. He 
was initiated on treatment with furosemide 40 mg PO BID. This 
was discontinued prior to discharge in setting of soft BPs. It 
can be reconsidered in the outpatient setting if he continues to 
have persistent peripheral edema. He has follow up scheduled in 
the wound clinic on ___. He should continue daily 
dressing changes to BLE lymphedema wounds and elevate his legs 
when sitting. We have arranged ___ services to visit once weekly 
to reevaluate.

#PICC line erythema
Erythema surrounding PICC line site on his right inner arm. 
Completed cephalexin 500 mg QID x 5 days.

#Right upper extremity DVT
PICC line associated acute non-occlusive thrombus extending from 
right basilica vein to right axillary vein. Treated with 
lovenox.

#Hypogammaglobulinemia
SPEP with evidence of hypogammaglobulinemia. For prevention of 
infection, given course of IVIG x 3 doses while inpatient 
(___).

#Chronically elevated serum bicarbonate
Patient with apparent chronically elevated bicarbonate level. 
VBG with CO2 ___. CO2 retention is most likely secondary to 
hypoventilation in the setting of ankylosing spondylitis and 
SAPHO syndrome.

# Ankylosing Spondylitis
# SAPHO
Home percocet was held and he was given oxycodone PRN while 
inpatient.

# HTN
Discontinued home atenolol as started metoprolol per above.

Transitional Issues
[ ] Venetoclax dosing 50 mg daily and not escalated further 
secondary to pancytopenia
[ ] Consider need for further filgrastim to support ANC while 
receiving venetoclax
[ ] Reconsider anticoagulation for atrial fibrillation in 
outpatient setting when platelets normalize
[ ] Reconsider need for diuresis if peripheral edema persists
[ ] Consider discontinuing sevelamer
[ ] If pleural effusion continues to accumulate, may consider 
placement of pleurex vs. pleuredesis as a more permanent 
solution
[ ] Follow up with wound clinic
[ ] Daily dressing changes to RLE, maintain legs elevated while 
seated
[ ] ___ services to assess RLE skin tear
[ ] Follow up with cardiology at ___ for further 
management of atrial fibrillation and titration of medications
[ ] Follow up with outpatient oncology for management of CLL 
both at ___ and ___
[ ] Follow up with outpatient interventional pulmonology at 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atenolol 25 mg PO BID 
3. ibrutinib 420 mg oral daily 
4. oxyCODONE-acetaminophen 7.5-325 mg oral four times a day prn 
pain 
5. Omeprazole 20 mg PO DAILY:PRN hearburn 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth Three times daily Disp 
#*90 Tablet Refills:*1 
2.  Enoxaparin Sodium 90 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 0.9 mL SC Twice daily Disp #*60 Syringe 
Refills:*1 
3.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*1 
4.  sevelamer CARBONATE 800 mg PO TID W/MEALS 
RX *sevelamer carbonate 800 mg 1 tablet(s) by mouth Three times 
daily Disp #*90 Tablet Refills:*1 
5.  venetoclax 50 mg oral DAILY  
6.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1 
7.  oxyCODONE-acetaminophen 7.5-325 mg oral FOUR TIMES A DAY prn 
pain  
8.Cardiology Referral
Cardiology referral for new onset atrial fibrillation.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
CLL
Malignant pleural effusion
Atrial fibrillation

SECONDARY DIAGNOSES
=================
Hypertension
Ankylosing spondylitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of ___ at ___.

Why was I here?
- ___ came to the hospital to start a new chemotherapy drug 
called venetoclax

What was done while I was here?
- ___ had a lymph node biopsy done that was consistent with your 
known CLL
- ___ were treated with steroids
- Your ibrutinib was stopped and ___ were started on a new 
chemotherapy called venetoclax
- ___ had fluid in your lungs that was making it hard to breath, 
so ___ had a procedure called a thoracentesis to drain the fluid
- While ___ were here, ___ started having an fast, abnormal 
heart rhythm called atrial fibrillation 
- ___ were started on two medications to try to control your 
fast heart rate
- ___ also had a lot of swelling in your legs so ___ were 
started on a water pill (furosemide) to help decrease the fluid 
in your legs

What should I do when I get home?
- ___ should follow up with your outpatient oncologist, Dr. 
___
- ___ should follow up with your new outpatient oncologist, Dr. 
___.
- ___ should follow up with outpatient cardiology regarding your 
atrial fibrillation. 
- ___ should follow up with interventional pulmonology regarding 
the fluid in your lungs
- ___ should take all of your medications as prescribed
- ___ should perform daily dressing changes for the skin tear on 
your right leg 
- ___ should try to elevate your legs while lying down

We wish ___ the best!

- Your ___ team
 
Followup Instructions:
___